US04690934
2.6 g (0.01 mol) of 4-chloro-2-trifluoromethylbenzenesulfonamide were dissolved in 20 ml of pyridine, 2-chloroisonicotinoyl chloride was added dropwise at room temperature. Agitation was then continued for 2 hr. at the same temperature. The reaction mixture was acidified by adding aqueous hydrochloric acid, and the precipitate thus formed was extracted by ethyl acetate. The organic layer obtained was dried and then concentrated to precipitate crude crystals, which were recrystallized by solvent mixture of n-hexane and ethyl acetate to produce 3.4 g (yield: 85.1%) of N-(4-chloro-2-trifluoromethylphenylsulfonyl)-2-chloroisonicotinamide as white crystals.

reactant | 4-chloro-2-trifluoromethylbenzenesulfonamide | 0.01 mol, 2.6 g | ClC1=CC(=C(C=C1)S(=O)(=O)N)C(F)(F)F | C7H5ClF3NO2S
reactant | 2-chloroisonicotinoyl chloride | ClC=1C=C(C(=O)Cl)C=CN1 | C6H3Cl2NO
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-chloro-2-trifluoromethylphenylsulfonyl)-2-chloroisonicotinamide | 3.4 g, yield: 85.1% | ClC1=CC(=C(C=C1)S(=O)(=O)NC(C1=CC(=NC=C1)Cl)=O)C(F)(F)F | C13H7Cl2F3N2O3S
